US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with 4-fluorophenylboronic acid as described in Step 1 of Example 29 to afford 2-chloro-1-(4-fluorophenyl)-1H-indole-3-carboxaldehyde (84% yield) as a cream solid. ESI/MS 274 (M+H); RT 3.64 min; NMR 10.12 (1H, s); 8.20 (1H, d, J=6 Hz); 7.72 (2H, m); 7.58 (2H, m); 7.39 (2H, m); 7.12 (1H, d, J=9 Hz).

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 2-chloro-1-(4-fluorophenyl)-1H-indole-3-carboxaldehyde | 84% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)F | C15H9ClFNO
